US04588735
N-ethyl-2,4,6-trichlorophenoxyacetamide, the product of Example 13, 10.5 gm, was added to 80 ml of toluene. 7.0 ml of borane methyl sulfide [BH3 (CH3)2S] (2 equivalents) was then slowly added to the system. The system was heated at approximately 60° C. for 18 hours at which time reaction completion was checked by IR spectroscopy. 50 ml of methanol was then slowly added to the system. After addition of the methanol, the system was acidified by bubbling in HCl gas. Afterwards, the system was refluxed for 1 hour. The solvent was removed by stripping. The resulting oil was dissolved in methanol which was then stripped. The oil was next dissolved in methylene chloride and the methylene chloride solution was washed with a sodium hydroxide solution and then with water. The methylene chloride was removed by stripping to give 10.0 gm of the N-ethyl ethanolamine 2,4,6-trichlorophenylether.

reactant | N-ethyl-2,4,6-trichlorophenoxyacetamide | C(C)NC(COC1=C(C=C(C=C1Cl)Cl)Cl)=O | C10H10Cl3NO2
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | borane methyl sulfide | 7.0 ml, 2 equivalents | CSC.B
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | N-ethyl ethanolamine 2,4,6-trichlorophenylether | 10.0 gm | ClC1=C(C(=CC(=C1)Cl)Cl)OCCNCC | C10H12Cl3NO
